US07199147B2
Ammonium formate (900 mg) and 10% Pd—C (200 mg) were added to a solution of 1-benzyl-4-azepanol (450 mg, 2.19 mmol) in ethanol (10 ml), and the resulting mixture was refluxed for 1 hour. The reaction mixture was filtered by the use of Celite and the filtrate was concentrated. To a solution of the resulting residue in dichloromethane (10 ml) was added di-tert-butyl dicarbonate (0.504 ml, 2.19 mmol) at room temperature, and stirred for 19 hours. A saturated aqueous sodium hydrogencarbonate solution and then water were added to the reaction mixture, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to obtain tert-butyl 4-hydroxyazepane-1-carboxylate (333 mg, 70%).

reactant | Ammonium formate | 900 mg | C(=O)[O-].[NH4+]
reactant | 1-benzyl-4-azepanol | 2.19 mmol, 450 mg | C(C1=CC=CC=C1)N1CCC(CCC1)O | C13H19NO
reactant | di-tert-butyl dicarbonate | 2.19 mmol, 0.504 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | Pd—C | 200 mg | [Pd] | Pd
solvent | water | O | H2O
product | tert-butyl 4-hydroxyazepane-1-carboxylate | 333 mg, 70% | OC1CCN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
